US06852731B2
3-Oxiran-2-ylpyridine {37134-PMG-24b}
To a solution of 2.59 g of 3-pyridinecarboxaldehyde and 62 mg of tetra-n-butylammonium bromide in 60 mL CH2Cl2 at room temperature is added a solution of 10.0 g of trimethylsulfonium methylsulfate in 15 mL H2O. The resulting solution is set stirring and cooled to 0° C. Aqueous NaOH (50% w/w; 40 mL) is added in portions while stirring and the mixture subsequently refluxed for 1 h. After cooling to room temperature, the mixture is filtered and the filtrate extracted with CH2Cl2. The combined extracts are dried over MgSO4, filtered, and concentrated to yield a red oil, which is subjected to Kugelrohr distillation under high vacuum at 150° C. to yield 838 mg of the title compound as a clear, light yellow oil.

reactant | 3-pyridinecarboxaldehyde | 2.59 g | N1=CC(=CC=C1)C=O | C6H5NO
reactant | trimethylsulfonium methylsulfate | 10.0 g | COS(=O)(=O)[O-].C[S+](C)C
reactant | NaOH | 40 mL | [OH-].[Na+]
catalyst | tetra-n-butylammonium bromide | 62 mg | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | CH2Cl2 | 60 mL | C(Cl)Cl | CH2Cl2
solvent | H2O | 15 mL | O | H2O
product | 3-Oxiran-2-ylpyridine | 838 mg | O1C(C1)C=1C=NC=CC1 | C7H7NO
